US07608629B2
Preparation 93. N-[6-(1-Benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-yl]-2-chloro-4-fluoro-benzamide
Combine 6-(1-benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 66, 0.537 g, 1.72 mmol), 1,4-dioxane (20 mL) and 2-chloro-4-fluoro-benzoyl chloride (0.20 g, 1.04 mmol), stir and heat to reflux. After 1.5 hr., cool to ambient temperature and concentrate. Dissolve the residue in methanol (10 mL) and load on an SCX column (10 g); wash with methanol (2×50 mL); elute product with 2M ammonia/methanol (2×50 mL). Concentrate the eluent. Purify the crude mixture by silica gel flash chromatography eluting with 9:1 hexane:ethyl acetate to obtain the title compound (0.056 g 11.5%). Mass spectrum (electrospray): m/z=468.2 (M+1); 1H NMR (CDCl3): 8.3 (bs, 1H), 7.8 (m, 2H), 7.6 (dd, 1H), 7.3 (m, 6H), 7.1 (m, 1H), 6.5 (d, 1H), 5.1 (m, 1H), 3.9 (d, 1H), 3.2 (d, 1H), 2.65 (m, 1H), 2.4 (m, 1H), 2.0 (m, 2H), 1.7 (m, 1H), 1.6 (m, 1H), 1.3 (s, 3H), 1.2 (s, 3H).

reactant | 6-(1-benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-ylamine | 1.72 mmol, 0.537 g | C(C1=CC=CC=C1)N1C(CC(CC1)OC1=CC=CC(=N1)N)(C)C | C19H25N3O
reactant | 2-chloro-4-fluoro-benzoyl chloride | 1.04 mmol, 0.20 g | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-[6-(1-Benzyl-2,2-dimethyl-piperidin-4-yloxy)-pyridin-2-yl]-2-chloro-4-fluoro-benzamide | 0.056 g, 11.5% | C(C1=CC=CC=C1)N1C(CC(CC1)OC1=CC=CC(=N1)NC(C1=C(C=C(C=C1)F)Cl)=O)(C)C | C26H27ClFN3O2
